US05026707
The tetralone (10 g; 56.8 mmol) was dissolved in 200 ml of toluene. To the solution then were added 13.0 ml (0.117 mol) of N-methylpiperazine followed by 25.1 g (0.13 mol) of p-toluenesulfonic acid. The mixture was stirred at reflux with constant removal of water. After 2 hours, the mixture was cooled to room temperature, and the volatiles were removed in vacuo to give 3-(N-methylpiperazinyl)-5-methoxy-1,2-dihydronaphthalene as a reddish-orange sludge.

reactant | tetralone | 56.8 mmol, 10 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | N-methylpiperazine | 0.117 mol, 13.0 ml | CN1CCNCC1 | C5H12N2
reactant | p-toluenesulfonic acid | 0.13 mol, 25.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(N-methylpiperazinyl)-5-methoxy-1,2-dihydronaphthalene | CN1C(CNCC1)C=1CCC2=CC=CC(=C2C1)OC | C16H22N2O
